US05212187
N-cyano-N'-[4-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine
Preparation is effected analogously to Example 1, using 0.33 g (1.0 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine and the equimolar amount of N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=612 ([M+H]+, 49), 229 (100); IR (KBr): 2165 cm-1 (C≡N). For further analysis, a portion of the compound is converted into the O,O'-ditoluoyltartaric acid salt in an ethanol/ether solvent mixture; m.p.: 137° C. (ethanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine | 1.0 mmol, 0.33 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCN)C)C=C1 | C19H27FN4
reactant | N-cyano-N'-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]-O-phenyl-isourea | C(#N)NC(OC1=CC=CC=C1)=NCCSCC=1N=C(SC1)NC(=N)N | C15H17N7OS2
product | N-cyano-N'-[4-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]-N"-[2-[[(2-guanidino-4-thiazolyl)methyl]thio]ethyl]guanidine | C(#N)NC(=NCCSCC=1N=C(SC1)NC(=N)N)NCCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)F | C28H38FN11S2
